* e:\fossee\esim\library\subcircuitlibrary\811m\811m.cir

.include NPN.lib
.include D.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_q1-pad3_ net-_q11-pad1_ net-_q3-pad3_ Q2N2222
r2  net-_q3-pad3_ net-_r16-pad2_ 0.24k
r1  net-_q2-pad3_ net-_q1-pad1_ 0.91k
r3  net-_q2-pad3_ net-_q7-pad2_ 0.91k
r4  net-_q7-pad2_ net-_q4-pad1_ 0.1k
q2 net-_d1-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r5  net-_d1-pad1_ net-_q2-pad2_ 4.3k
q5 net-_q2-pad2_ net-_q1-pad1_ net-_q5-pad3_ Q2N2222
q6 net-_q2-pad2_ net-_q4-pad1_ net-_q5-pad3_ Q2N2222
q7 net-_q7-pad1_ net-_q7-pad2_ net-_q5-pad3_ Q2N2222
r6  net-_d2-pad2_ net-_q7-pad1_ 5.3k
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
* u2  net-_q10-pad2_ net-_q5-pad3_ zener
q8 net-_q8-pad1_ net-_q7-pad1_ net-_q5-pad3_ Q2N2222
r7  net-_d1-pad2_ net-_q8-pad1_ 4.3k
* u3  net-_u1-pad5_ net-_q8-pad1_ zener
q9 net-_d1-pad1_ net-_q8-pad1_ net-_q9-pad3_ Q2N2222
* u4  net-_q10-pad1_ net-_q9-pad3_ zener
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r8  net-_q10-pad3_ net-_q11-pad1_ 5.05k
q11 net-_q11-pad1_ net-_q11-pad1_ net-_q11-pad3_ Q2N2222
r9  net-_q11-pad3_ net-_r16-pad2_ 0.24k
q12 net-_d1-pad1_ net-_q12-pad2_ net-_q12-pad3_ Q2N2222
* u5  net-_q10-pad1_ net-_q12-pad3_ zener
* u6  net-_u1-pad8_ net-_q12-pad2_ zener
r10  net-_d3-pad2_ net-_q12-pad2_ 4.3k
q13 net-_q12-pad2_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
d3 net-_d1-pad1_ net-_d3-pad2_ 1N4148
d4 net-_d3-pad2_ net-_d4-pad2_ 1N4148
r11  net-_d4-pad2_ net-_q13-pad2_ 5.3k
q14 net-_q13-pad2_ net-_q14-pad2_ net-_q13-pad3_ Q2N2222
* u7  net-_q10-pad2_ net-_q13-pad3_ zener
q15 net-_q15-pad1_ net-_q15-pad2_ net-_q13-pad3_ Q2N2222
r12  net-_d1-pad1_ net-_q15-pad1_ 4.3k
q16 net-_q15-pad1_ net-_q16-pad2_ net-_q13-pad3_ Q2N2222
q18 net-_d1-pad1_ net-_q15-pad1_ net-_q18-pad3_ Q2N2222
r15  net-_q18-pad3_ net-_q16-pad2_ 0.91k
r13  net-_q18-pad3_ net-_q14-pad2_ 0.91k
r14  net-_q14-pad2_ net-_q15-pad2_ 0.1k
q17 net-_q15-pad2_ net-_q17-pad2_ net-_q17-pad3_ Q2N2222
q20 net-_q16-pad2_ net-_q20-pad2_ net-_q17-pad3_ Q2N2222
q19 net-_q17-pad3_ net-_q11-pad1_ net-_q19-pad3_ Q2N2222
r16  net-_q19-pad3_ net-_r16-pad2_ 0.24k
* u1  net-_q1-pad2_ net-_q4-pad2_ net-_d1-pad1_ net-_q10-pad2_ net-_u1-pad5_ net-_q10-pad1_ net-_r16-pad2_ net-_u1-pad8_ net-_q20-pad2_ net-_q17-pad2_ port
a1 net-_q10-pad2_ net-_q5-pad3_ u2
a2 net-_u1-pad5_ net-_q8-pad1_ u3
a3 net-_q10-pad1_ net-_q9-pad3_ u4
a4 net-_q10-pad1_ net-_q12-pad3_ u5
a5 net-_u1-pad8_ net-_q12-pad2_ u6
a6 net-_q10-pad2_ net-_q13-pad3_ u7
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u4 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u5 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u6 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u7 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
